US05281641
An intended product having a boron content of 4.3% by weight (calculated: 4.50%) and a purity of 95.5% was obtained from 226 parts by weight of triisoamyl boron and 88 parts by weight of isoamyl alcohol in the same manner as in Referential Example 1.

reactant | boron | [B] | B
reactant | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | triisoamyl boron | C(CC(C)C)B(CCC(C)C)CCC(C)C | C15H33B
